data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_206937_0,[C:1]([N:3]([C:2]([H:16])([H:17])[H:18])/[C:4]([N:6]([H:12])[H:13])=[N:8]/[N:5]([H:10])[H:11])([O:7][H:9])([H:14])[H:15]>>[C:1]([O:7][H:9])([N:8](/[C:4](=[N:3]/[C:2]([H:16])([H:17])[H:18])[N:6]([H:12])[H:13])[N:5]([H:10])[H:11])([H:14])[H:15],62.780747500007976
MR_547145_0,[C:1](=[C:5]([H:13])[H:14])([O:7][C:2]([N:4]([H:11])[H:12])=[C:6]([H:15])[H:16])[O:8][N:3]([H:9])[H:10]>>[C:1]([C:5]([C:2]([N:4]([H:11])[H:12])=[C:6]([H:15])[H:16])([H:13])[H:14])(=[O:7])[O:8][N:3]([H:9])[H:10],50.91723249999831
MR_273129_0,[C:1]1([C:5]([C:3]([H:16])([H:17])[H:18])=[C:4]([N:6]([H:12])[H:13])[N:7]([H:10])[H:11])([H:9])[C:2]([H:14])([H:15])[O:8]1>>[C:1]1([O:8][H:10])([H:9])[C:2]([H:14])([H:15])[C:5]1([C:3]([H:16])([H:17])[H:18])/[C:4]([N:6]([H:12])[H:13])=[N:7]/[H:11],45.41280249998465
MR_382963_0,[C:1]1([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[C:2]([C:5]([H:17])([H:18])[H:19])([H:10])[C:6]([O:7][H:9])=[N:8]1>>[C:1]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])=[N:8]/[C:6](=[C:2](/[C:5]([H:17])([H:18])[H:19])[H:10])[O:7][H:9],33.74506749998005
MR_338168_1,[C:1]([C:5]([C:2]([H:17])([H:18])[H:19])=[C:6]([N:3]([N:4]([H:9])[H:10])/[C:7](=[N:8]\[H:11])[H:13])[H:12])([H:14])([H:15])[H:16]>>[C:1]([C:5]([C:2]([H:17])([H:18])[H:19])(/[C:6](=[N:3]/[N:4]([H:9])[H:10])[H:12])/[C:7](=[N:8]\[H:11])[H:13])([H:14])([H:15])[H:16],68.194189999966
MR_288547_0,[C:1]([C:2](=[C:5]([H:14])[H:15])[O:6]/[C:4](=[N:7]\[N:3]([H:8])[H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:2]([C:5](/[C:4](=[N:7]\[N:3]([H:8])[H:9])[H:10])([H:14])[H:15])=[O:6])([H:11])([H:12])[H:13],57.70929250000691
MR_668146_0,[C:1]([C:2]([C:5]([H:20])([H:21])[H:22])([C:6]([H:23])([H:24])[H:25])[N:8]([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[O:9][N:7]([H:10])[H:11]>>[C:1]([C@:2]([C:5]([H:20])([H:21])[H:22])([N:8]([H:12])[H:13])[O:9][N:7]([H:10])[H:11])([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[C:6]([H:23])([H:24])[H:25],69.57155249998408
MR_261395_0,[C:1](/[N:7]=[C:3](\[N:5]([H:11])[H:12])[O:6][C:2]([N:4]([H:9])[H:10])=[O:8])([H:13])([H:14])[H:15]>>[C:1]([N:7]([C:2]([N:4]([H:9])[H:10])=[O:8])[C:3]([N:5]([H:11])[H:12])=[O:6])([H:13])([H:14])[H:15],24.970107499984096
MR_438314_0,[C:1]1([H:10])([H:11])[C:4]([C:2]([H:13])([H:14])[H:15])=[C:3]([N:5]([H:8])[H:9])[N:7]=[C:6]1[H:12]>>[C:1]1([H:10])([H:11])[C:4]2([C:2]([H:13])([H:14])[H:15])[C:3]([N:5]([H:8])[H:9])=[N:7][C:6]12[H:12],65.56559249996809
MR_694381_1,[C:1](\[C:2]([C:4]([C:3]([H:16])([H:17])[H:18])(/[C:6](=[N:7]/[H:12])[H:15])[O:8][H:11])([H:13])[H:14])(=[N:5]/[H:10])[H:9]>>[C:1]([C:2]([C:4]([C:3]([H:16])([H:17])[H:18])=[O:8])([H:13])[H:14])([N:5]([H:10])[H:11])(/[C:6](=[N:7]/[H:12])[H:15])[H:9],52.33224499999267
MR_610793_0,[C:1]([C:4]([C:5]([C:2]([H:16])([H:17])[H:18])=[C:3]([N:6]([H:10])[H:11])[N:7]([H:9])[H:12])=[O:8])([H:13])([H:14])[H:15]>>[C:1]([C:4]1=[C:5]([C:2]([H:16])([H:17])[H:18])[C:3]([N:6]([H:10])[H:11])([N:7]([H:9])[H:12])[O:8]1)([H:13])([H:14])[H:15],36.33978000002784
MR_508043_0,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])(/[C:4]([O:7][H:11])=[N:8]/[O:6][H:10])[O:5][H:9]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])([O:5][H:9])[N:8]=[C:4]([O:6][H:10])[O:7][H:11],32.35640999999049
MR_347379_0,[N:1]([N:2]([N:4]([H:11])[H:12])[C:6](=[O:8])[H:14])([N:3]([H:9])[H:10])[C:5](=[O:7])[H:13]>>[N:1]([N:2]([N:4]([H:11])[H:12])[C:5](=[O:7])[H:13])([N:3]([H:9])[H:10])[C:6](=[O:8])[H:14],19.50332749998239
MR_421921_1,[C:1](/[C:3](=[C:2](/[C:4]([N:6]([H:12])[H:13])=[C:7]([H:17])[H:18])[O:8][H:9])[N:5]([H:10])[H:11])([H:14])([H:15])[H:16]>>[C:1]([C:3]1([N:5]([H:10])[H:11])[C:2]([O:8][H:9])=[C:4]([N:6]([H:12])[H:13])[C:7]1([H:17])[H:18])([H:14])([H:15])[H:16],49.330912499972754
MR_46556_2,[C:1]([N:2](/[N:5]=[C:4](/[N:3]([H:7])[H:8])[H:9])[H:6])([H:10])([H:11])[H:12]>>[C:1](/[N:2]=[N:5]/[C:4]([N:3]([H:7])[H:8])([H:6])[H:9])([H:10])([H:11])[H:12],67.87102749999718
MR_420568_0,[C:1]1([O:4][H:10])([O:5][H:11])[C:2]([C:3]([O:7][H:13])=[O:9])([O:6][H:12])[O:8]1>>[C:1]([C:2]([C:3]([O:7][H:13])=[O:9])([O:6][H:12])[O:8][H:10])(=[O:4])[O:5][H:11],17.469600000052026
MR_366302_0,[C:1]1([C:5]([H:19])([H:20])[H:21])([N:7]([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])([H:17])[H:18])[C:2]2([C:6]([H:22])([H:23])[H:24])[C:8]1([H:11])[C:9]2([H:10])[H:12]>>[C:1]1([C:5]([H:19])([H:20])[H:21])([N:7]([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])([H:17])[H:18])[C:2]([C:6]([H:22])([H:23])[H:24])([H:10])[C:9]([H:12])=[C:8]1[H:11],68.22242750003738
MR_326644_1,[C:1]([C:2](/[N:7]=[C:4](\[C:3]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([O:5][O:6][H:8])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[C:2]([H:11])([H:12])[N:7]1[C:4]([C:3]([H:14])([H:15])[H:16])([O:5][O:6][H:8])[H:13],70.46699500000614
